US07601722B2
In an analogous manner to general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.1 g, 0.23 mmol) was treated with cyclopropylamine (0.64 mL, 9.2 mmol) in methanol to give N-(2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}ethyl)cyclopropanamine which was treated with 1N hydrochloric acid in ether to give its hydrochloride salt as a white solid (0.63 g, 57%). HRMS: calcd for C19H21F2N3O3S+H+, 410.13444; found (ESI, [M+H]+Obs'd), 410.1341.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.23 mmol, 0.1 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2F)F)(=O)=O | C16H15BrF2N2O3S
reactant | cyclopropylamine | 9.2 mmol, 0.64 mL | C1(CC1)N | C3H7N
solvent | methanol | CO | CH4O
product | N-(2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}ethyl)cyclopropanamine | FC1=C(C(=CC=C1)F)N1S(N(C2=C1C=CC=C2)CCOCCNC2CC2)(=O)=O | C19H21F2N3O3S
